US05380742
14.2 5-[(1H-Imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride.
0.14 g (0.3 mmol) of 5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H -thieno-[3,4-c]pyrrole is dissolved in 1 ml of ethanol, 1.5 ml of 2M hydrochloric acid is then added and the mixture is heated at reflux for 1 hour. The precipitate formed is filtered and the filtrate is washed with twice 1 ml of ethyl acetate and then evaporated to dryness. The residue is dissolved in 2 ml of methanol and decoloured with active charcoal and then recrystallized from isopropanol. There is obtained 0.075 g of cream-white solid in a yield of 86%. Melting point: 260° C.

reactant | 5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H -thieno-[3,4-c]pyrrole | 0.3 mmol, 0.14 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CN1CC=2C(C1)=CSC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C29H25N3S
reactant | hydrochloric acid | 2M, 1.5 ml | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-[(1H-Imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride | 0.075 g, yield of 86% | Cl.Cl.N1C=NC(=C1)CN1CC=2C(C1)=CSC2 | InChI=1S/C10H11N3S.2ClH/c1-10(12-7-11-1)4-13-2-8-5-14-6-9(8)3-13;;/h1,5-7H,2-4H2,(H,11,12);2*1H
